* G:\Mi unidad\Facultad\ITBA\Teoria de Circuito\Trabajos Practicos\TP02\parte 6\Simulacion\Draft1.asc
R1 N001 Vt 1k
R2 N002 N001 25k
RA N003 N002 5k
RB N003 Voff 2k
RF Vout N003 10k
V1 +Vcc 0 20
V2 0 -Vcc 20
V3 Voff 0 3.5
V4 Vt 0 1
D1 0 N004 KDZ6_2B
XU1 0 N001 +Vcc -Vcc N002 TL082
XU2 0 N003 +Vcc -Vcc Vout TL082
D2 Vout N004 1N5819
D3 N006 N005 1N5819
D4 N005 Vout 1N5819
D5 0 N006 1N5819
.model D D
.lib C:\Users\lisan\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V4 150m 750m 10m
.include G:\Mi unidad\Facultad\ITBA\Teoria de Circuito\Trabajos Practicos\TP02\parte 6\Simulacion\TL082.301
.backanno
.end
