* C:\Users\lisan\Documents\Repositorios\TC\TP02\parte6\Simulacion\Draft1.asc
R1 N001 Vt 1k
R2 N002 N001 25k
RA N003 N002 5k
RB N003 Voff 2k
RF Vout N003 10k
V1 +Vcc 0 20
V2 0 -Vcc 20
V3 Voff 0 3.5
V4 Vt 0 500m
XU1 0 N001 +Vcc -Vcc N002 TL082
XU2 0 N003 +Vcc -Vcc Vout TL082
D1 0 Vout Z5p6
.model D D
.lib C:\Users\lisan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1m 0 startup
.include G:\Mi unidad\Facultad\ITBA\Teoria de Circuito\Trabajos Practicos\TP02\parte 6\Simulacion\TL082.301
.model Z5p6 D(Is=1.5n Rs=.5 Cjo=185p nbv=3 bv=5.6 Ibv=1m)
.backanno
.end
